US07692014B2
Step 6: 3-(4-fluorobenzyl)7-hydroxy-7,8,9,10-tetrahydropyrrolo[3′,2′:4,5]pyrido[2,3-c]azepin-6(3H)-one
3-(4-fluorobenzyl)-7-(tetrahydro-2H-pyran-2-yloxy)-7,8,9,10 tetrahydropyrrolo[3′,2′:4,5]pyrido[2,3-c]azepin-6(3H)-one (18.53 mg, 0.045 mmol) was dissolved in acetic acid, THF and Water (3.5 ml, 5:1:1). The resulting mixture was stirred for 1 h at room temperature. The mixture was concentrated and purified by preparative HPLC to provide the title compound as a white powder (9.0 mg, 61% yield). 1H NMR (300 MHz, MeOH) □ ppm 8.57 (s, 1 H) 7.60 (d, J=3.20 Hz, 1 H) 7.11-7.20 (m, 2 H) 6.90-6.99 (m, 2 H) 6.72 (d, J=3.01 Hz, 1 H) 5.44 (s, 2 H) 3.51 (t, J=6.50 Hz, 2 H) 3.03 (t, J=7.16 Hz, 2 H) 2.14-2.25 (m, 2 H). LC-MS (APCl, M+H+): 329.1. HPLC: 98% purity.

reactant | 3-(4-fluorobenzyl)-7-(tetrahydro-2H-pyran-2-yloxy)-7,8,9,10 tetrahydropyrrolo[3′,2′:4,5]pyrido[2,3-c]azepin-6(3H)-one | 0.045 mmol, 18.53 mg | FC1=CC=C(CN2C=CC=3C2=CN=C2C(N(CCCC23)OC2OCCCC2)=O)C=C1 | C23H24FN3O3
reactant | THF | C1CCOC1 | C4H8O
reactant | Water | 3.5 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(4-fluorobenzyl)7-hydroxy-7,8,9,10-tetrahydropyrrolo[3′,2′:4,5]pyrido[2,3-c]azepin-6(3H)-one | 9.0 mg, 61% yield | FC1=CC=C(CN2C=CC=3C2=CN=C2C(N(CCCC23)O)=O)C=C1 | C18H16FN3O2
